US04000275
6-(Bicyclo[3.3.0]octenoyl)-3-nitrobenzimidazo[2,1-b]-quinazolin-12(6H)one is prepared with 3-nitrobenzimidazo[2,1-b]-quinazolin-12(6H)one and bicyclo[3.3.0]octenoyl bromide.

reactant | 3-nitrobenzimidazo[2,1-b]-quinazolin-12(6H)one | [N+](=O)([O-])C1=CC=C2C(N3C(=NC2=C1)NC1=C3C=CC=C1)=O | C14H8N4O3
reactant | bicyclo[3.3.0]octenoyl bromide | C12(C=CCC2CCC1)C(=O)Br | C9H11BrO
product | 6-(Bicyclo[3.3.0]octenoyl)-3-nitrobenzimidazo[2,1-b]-quinazolin-12(6H)one | C12(C=CCC2CCC1)C(=O)N1C2=C(C=CC=C2)N2C1=NC1=CC(=CC=C1C2=O)[N+](=O)[O-] | C23H18N4O4
